US04489003
A mixture of 3.0 g (8.2 mmol) of 1-[[(S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole, 1.59 g (11.5 mmol) of powdered potassium carbonate, 1.48 g (11.5 mmol) of 4-chlorophenol and 20 ml of dry dimethylformamide. is stirred at room temperature for 21 hours, then poured into 60 ml of water and extracted four times with methylene chloride. The organic extracts are washed twice with saturated sodium chloride solution, dried over magnesium sulphate and evaporated. After chromatography on silica gel while eluting with ethyl acetate and subsequent recrystallization from ethyl acetate there is obtained p-chlorophenyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 241°-242°.

reactant | 1-[[(S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole | 8.2 mmol, 3.0 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N3C=NC=C3)CCC1)=O | C18H14ClN5O2
reactant | potassium carbonate | 11.5 mmol, 1.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chlorophenol | 11.5 mmol, 1.48 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 60 ml | O | H2O
product | p-chlorophenyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC3=CC=C(C=C3)Cl)CCC1)=O | C21H15Cl2N3O3
